US06699904B2
To a solution of 1-p-tolylcyclopropanecarboxylic acid (5.68 grams) in chloroform (10 mL) was added thionyl chloride (17.0 mmol, 1.26 mL). The resulting mixture was brought to reflux and was allowed to stir for 3 h. The mixture was cooled to room temperature and concentrated to give a yellow oil. The oil was dissolved in dichloromethane (5 mL) and added dropwise to a solution of 1-heptylamine (6.82 mmol, 1.01 mL) and N,N-diisopropylethylamine (6.82 mmol, 1.19 mL) dissolved in dichloromethane (10 mL) cooled to 0° C. The mixture was warmed to room temperature and was allowed to stir for 30 minutes. The solution was poured over 1 N HCl, and the aqueous layer was isolated and extracted with dichloromethane (3×). The organic layers were combined, washed with 2N HCl (1×), brine (1×), dried over anhydrous sodium sulfate and concentrated to a yellow oil which solidified under high vacuum. The solid was crystallized from hexanes to give 1-p-tolyl-cyclopropanecarboxylic acid heptylamide as a white solid (1.0 g, 64%).

reactant | 1-p-tolylcyclopropanecarboxylic acid | 5.68 grams | C1(=CC=C(C=C1)C1(CC1)C(=O)O)C | C11H12O2
reactant | thionyl chloride | 17.0 mmol, 1.26 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-heptylamine | 6.82 mmol, 1.01 mL | C(CCCCCC)N | C7H17N
reactant | N,N-diisopropylethylamine | 6.82 mmol, 1.19 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 1 N | Cl | ClH
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-p-tolyl-cyclopropanecarboxylic acid heptylamide | 1.0 g, 64% | C(CCCCCC)NC(=O)C1(CC1)C1=CC=C(C=C1)C | C18H27NO
